US09062048B2
Step D: tert-butyl 3-(2-(methylamino)acetamido)azetidine-1-carboxylate
To a flask containing tert-butyl 3-(2-(((benzyloxy)carbonyl)(methyl)amino)acetamido)azetidine-1-carboxylate (3.10 g, 8.21 mmol, prepared in the previous step) and a stirbar, was added 10% Pd/C (136 g, 0.127 mmol). The flask was evacuated and back filled with argon. Methanol (100 mL) was carefully added via syringe and the flask was evacuated with stirring. It was then back filled with hydrogen and stirred 2 days under a hydrogen balloon. After evacuation with stirring and back filling with argon, the catalyst was removed by filtration over Celite 521 and concentrated in vacuo to afford the product.

reactant | tert-butyl 3-(2-(((benzyloxy)carbonyl)(methyl)amino)acetamido)azetidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N(CC(=O)NC1CN(C1)C(=O)OC(C)(C)C)C | C19H27N3O5
catalyst | Pd/C | 0.127 mmol, 136 g | [Pd] | Pd
product | tert-butyl 3-(2-(methylamino)acetamido)azetidine-1-carboxylate | CNCC(=O)NC1CN(C1)C(=O)OC(C)(C)C | C11H21N3O3
